US05641430
Preparation of trans-4-(3-fluoro-4-trifluoromethoxyphenyloxymethyl)-1-n-heptyl-1-silacyclohexane
The general procedure of Example 9 was repeated using 3-fluoro-4-trifluoromethoxyphenol and 4-bromomethyl-1-n-heptyl-1-phenyl-1-silacyclohexane, thereby obtaining the intended compound.

reactant | 3-fluoro-4-trifluoromethoxyphenol | FC=1C=C(C=CC1OC(F)(F)F)O | C7H4F4O2
reactant | 4-bromomethyl-1-n-heptyl-1-phenyl-1-silacyclohexane | BrCC1CC[Si](CC1)(C1=CC=CC=C1)CCCCCCC | C19H31BrSi
product | trans-4-(3-fluoro-4-trifluoromethoxyphenyloxymethyl)-1-n-heptyl-1-silacyclohexane | FC=1C=C(C=CC1OC(F)(F)F)OC[C@@H]1CC[Si@H](CC1)CCCCCCC | C20H30F4O2Si
